US09216999B2
1-Cyclohexyl-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one
1-Cyclohexyl-3,4-dihydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one (18 mg, 0.066 mmol) in chloroform (2 mL) was stirred with manganese dioxide (100 mg, 1.15 mmol) at 50° C. for 5 hours. The reaction mixture was filtered, and the filtrate was purified by silica gel column chromatography (Hi Flash column amino type manufactured by Yamazen Corporation: chloroform/methanol=10/1 (v/v)) to give the title compound as a colorless solid (0.58 mg, yield 3.2%).

reactant | 1-Cyclohexyl-3,4-dihydro-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one | 0.066 mmol, 18 mg | C1(CCCCC1)N1C(NCC2=C1C1=C(N=C2)NC=C1)=O | C15H18N4O
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 1.15 mmol, 100 mg | [O-2].[O-2].[Mn+4]
product | 1-Cyclohexyl-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-2(7H)-one | 0.58 mg, yield 3.2% | C1(CCCCC1)N1C(N=CC2=C1C1=C(N=C2)NC=C1)=O | C15H16N4O
